US07259183B2
Preparation of N′-(4-tert-butyl-benzyl)-N-(4-chloro-phenyl)-N-methyl-ethane-1,2-diamine
1.62 g (10 mmol) of 4-tert-butyl benzaldehyde and 1.85 g (10 mmol) of N-(4-chloro -phenyl)-N-methyl-ethane-1,2-diamine were dissolved in 20 ml methanol and the solution was stirred for 2 h at rt. 567 mg (15 mmol) of sodium borohydride were added in portions under nitrogen. The reaction mixture was stirred at rt over night. Water was added and the solvent was evaporated. The reaction mixture was extracted with diethyl ether and the organic layer was washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated to leave the 2.97 g (90%) product as a yellow oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.34 (d, 2H), 7.24 (d, 2H), 7.13 (d, 2H), 6.64 (d, 2H), 3.77 (s, 2H), 3.42 (t, 2H), 2.91 (s, 3H), 2.83 (t, 2H), 1.30 (s, 9H).

reactant | 4-tert-butyl benzaldehyde | 10 mmol, 1.62 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | N-(4-chloro -phenyl)-N-methyl-ethane-1,2-diamine | 10 mmol, 1.85 g | ClC1=CC=C(C=C1)N(CCN)C | C9H13ClN2
reactant | sodium borohydride | 15 mmol, 567 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | N′-(4-tert-butyl-benzyl)-N-(4-chloro-phenyl)-N-methyl-ethane-1,2-diamine | 2.97 g, 90% | C(C)(C)(C)C1=CC=C(CNCCN(C)C2=CC=C(C=C2)Cl)C=C1 | C20H27ClN2
